US06420359B1
e) 2-Chloro-5,11-dihydro-11-ethyl-4-methyl-8-(2-propenyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6one
A solution of 8-bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (12.6 g, 34.3 mmol) in DMF (25-0 mL) was degassed under reduced pressure for 20 min. Pd(PPh3)4 (775 mg, 0.7 mmol) was then added followed by allyltributyltin (12.5 mL, 41.1 mmol). After degassing under reduced pressure for 10 min, the mixture was heated to 100° C. for 7 h. The mixture was then concentrated under reduced pressure. The residue was purified by flash chromatography (hexane:EtOAc, 19:1) to give the title compound (8.04 g, 71% yield) as a yellow solid.

reactant | 8-bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 34.3 mmol, 12.6 g | BrC1=CC2=C(N(C3=C(NC2=O)C(=CC(=N3)Cl)C)CC)N=C1 | C14H12BrClN4O
reactant | allyltributyltin | 41.1 mmol, 12.5 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 25-0 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.7 mmol, 775 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-5,11-dihydro-11-ethyl-4-methyl-8-(2-propenyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6one | 8.04 g, 71% yield | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC(=C3)CC=C)=O)C | C17H17ClN4O
